US09260412B2
Preparation of ethyl 5-cyclopropyl-1-(4-cyclopropyl-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboxylate
1.0 g ethyl 1-(4-bromo-2,6-difluorobenzyl)-5-cyclopropyl-4-methyl-1H-pyrazole-3-carboxylate (2.51 mmol, 1.0 eq.) were dissolved in 40 mL toluene and 0.280 g cyclopropylboronic acid (3.26 mmol, 1.3 eq.), 1.86 g potassium phosphate (8.77 mmol, 3.5 eq.), 70 mg tricyclohexylphosphine (0.25 mmol, 0.10 eq.) and 0.66 mL water were added. The reaction mixture was flushed with nitrogen and 28 mg palladium acetate (0.125 mmol, 0.050 eq.) were added. The reaction mixture was stirred at 100° C. over night. Again 0.280 g cyclopropylboronic acid (3.26 mmol, 1.3 eq.), 1.86 g potassium phosphate (8.77 mmol, 3.5 eq.), 70 mg tricyclohexylphosphine (0.25 mmol, 0.10 eq.) and 0.66 mL water were added. The reaction mixture was flushed with nitrogen and 28 mg palladium acetate (0.125 mmol, 0.050 eq.) were added. The reaction mixture was stirred at 100° C. over night. Water was added and the aqueous phase was washed with ethyl acetate twice. The combined organic layers were dried over a silicon filter and concentrated in vacuo. The crude product was purified by flash chromatography to provide 652 mg (1.63 mmol, 65%) of the analytically pure target compound.

reactant | ethyl 1-(4-bromo-2,6-difluorobenzyl)-5-cyclopropyl-4-methyl-1H-pyrazole-3-carboxylate | 2.51 mmol, 1.0 g, 1.0 eq. | BrC1=CC(=C(CN2N=C(C(=C2C2CC2)C)C(=O)OCC)C(=C1)F)F | C17H17BrF2N2O2
reactant | cyclopropylboronic acid | 3.26 mmol, 0.280 g, 1.3 eq. | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 8.77 mmol, 1.86 g, 3.5 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.25 mmol, 70 mg, 0.10 eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 3.26 mmol, 0.280 g, 1.3 eq. | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 8.77 mmol, 1.86 g, 3.5 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.25 mmol, 70 mg, 0.10 eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.125 mmol, 28 mg, 0.050 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.125 mmol, 28 mg, 0.050 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | water | 0.66 mL | O | H2O
solvent | water | 0.66 mL | O | H2O
product | ethyl 5-cyclopropyl-1-(4-cyclopropyl-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboxylate | C1(CC1)C1=C(C(=NN1CC1=C(C=C(C=C1F)C1CC1)F)C(=O)OCC)C | C20H22F2N2O2
